US06878717B2
A mixture of 4-[[4-(4-cyano-2,6-dimethylphenoxy)-5-nitro-2-pyrimidinyl]amino]-benzonitrile (0.0005 mol) in tetrahydrofuran (20 ml) was hydrogenated overnight with Pd/C 10% (0.100 g) as a catalyst. After uptake of H2 (3 equiv; 0.0015 mol), the catalyst was filtered off and the filtrate was concentrated by rotary evaporation and dried in vacuo over 16 hours at 40° C., yielding 0.15 g of 4-[[5-amino-4-(4-cyano-2,6-dimethylphenoxy)-2-pyrimidinyl]amino]benzonitrile (84%); mp. >300° C. (comp. 50).

reactant | 4-[[4-(4-cyano-2,6-dimethylphenoxy)-5-nitro-2-pyrimidinyl]amino]-benzonitrile | 0.0005 mol | C(#N)C1=CC(=C(OC2=NC(=NC=C2[N+](=O)[O-])NC2=CC=C(C#N)C=C2)C(=C1)C)C | C20H14N6O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.100 g | [Pd] | Pd
product | 4-[[5-amino-4-(4-cyano-2,6-dimethylphenoxy)-2-pyrimidinyl]amino]benzonitrile | 0.15 g, 84% | NC=1C(=NC(=NC1)NC1=CC=C(C#N)C=C1)OC1=C(C=C(C=C1C)C#N)C | C20H16N6O
